US07825128B2
(RS)—S-{2-bromo-4-[(4-{[(R)-1-(hydroxymethyl)propyl]amino}-5-(3-thienyl)pyrimidine-2-yl)amino]phenyl}-N-(ethoxycarbonyl)-S-methylsulfoximide
In the reaction of (R)-2-(2-chloro-5-thiophen-3-yl-pyrimidine-4-ylamino)-butan-1-ol (426 mg, 1.5 mmol) with (RS)—S-(4-amino-2-bromphenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide (404 mg, 1.3 mmol) according to procedure 5b, the desired product is obtained in 30% yield (214 mg) after chromatographic purification (silica gel, dichloromethane/ethanol (0%-15% ethanol)).

reactant | (R)-2-(2-chloro-5-thiophen-3-yl-pyrimidine-4-ylamino)-butan-1-ol | 1.5 mmol, 426 mg | ClC1=NC=C(C(=N1)N[C@@H](CO)CC)C1=CSC=C1 | C12H14ClN3OS
reactant | (RS)—S-(4-amino-2-bromphenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide | 1.3 mmol, 404 mg | NC1=CC(=C(C=C1)S(=O)(=NC(=O)OCC)C)Br | C10H13BrN2O3S
product | (RS)—S-{2-bromo-4-[(4-{[(R)-1-(hydroxymethyl)propyl]amino}-5-(3-thienyl)pyrimidine-2-yl)amino]phenyl}-N-(ethoxycarbonyl)-S-methylsulfoximide | 30% yield | BrC1=C(C=CC(=C1)NC1=NC=C(C(=N1)N[C@H](CC)CO)C1=CSC=C1)S(=O)(=NC(=O)OCC)C | C22H26BrN5O4S2
